US08207164B2
j) (R)-2-[(R)-2-(5-Bromo-2-fluoro-phenyl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide
A solution of (R)-2-[(R)-2-(5-bromo-2-fluoro-phenyl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester (26.6 g, 44.2 mmol) in 7N NH3 in MeOH (75 ml) was stirred for 16 h at 50° C. The solvent was removed under reduced pressure and the residual solid re-crystallized from Et2O to give the title compound as yellow crystals: TLC (hexane-EtOAc 1:1): Rf=0.35; HPLC RtH5=1.184 min; ESIMS: 589, 591 [(M+NH4)+]; 1H NMR (360 MHz, CDCl3): δ 7.85 (d, 1H), 7.64 (m, 3H), 7.44 (d, 1H), 7.41 (dd, 1H), 7.26 (m, 1H), 6.68 (br s, 1H), 6.57 (dd, 1H), 6.19 (s, 1H), 5.54 (br s, 1H), 4.24 (d, 1H), 3.93 (d, 1H), 1.79 (s, 3H), 1.67 (s, 3H).

reactant | (R)-2-[(R)-2-(5-bromo-2-fluoro-phenyl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester | 44.2 mmol, 26.6 g | C(C)OC([C@@](C(F)(F)F)(C)OC[C@](C)(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=C(C=CC(=C1)Br)F)=O | C21H21BrF4N2O7S
reactant | NH3 | 7N | N | H3N
solvent | MeOH | 75 ml | CO | CH4O
product | (R)-2-[(R)-2-(5-Bromo-2-fluoro-phenyl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionamide | BrC=1C=CC(=C(C1)[C@@](CO[C@](C(=O)N)(C(F)(F)F)C)(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F | C19H18BrF4N3O6S
